US04179514
Preparation of 1-[N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyloxy]-napthalene
To a solution of 10.0 g (0.042 m) of N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl chloride and 6.06 g (0.042 m) of 1-naphthol in 75 ml of dioxane was added 4.26 g (0.042 m) of triethylamine. After stirring at room temperature for 17 hours the reaction mixture was diluted with 500 ml of cold water and the product taken into ethyl acetate. The organic phase was washed in turn with 1.0 percent sodium hydroxide and water and then dried over magnesium sulfate. On removal of the solvent it yielded 9.4 g of a residual oil.

reactant | N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyl chloride | 10.0 g | CN(C(=O)Cl)SC(C)(C(C(C)C)=O)C | C9H16ClNO2S
reactant | 1-naphthol | 6.06 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | triethylamine | 4.26 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
solvent | water | 500 ml | O | H2O
product | 1-[N-methyl-N-(2,4-dimethyl-3-oxo-2-pentanesulfenyl)carbamoyloxy]-napthalene | 9.4 g | CN(C(=O)OC1=CC=CC2=CC=CC=C12)SC(C)(C(C(C)C)=O)C | C19H23NO3S
